US06713473B1
Then, 5.43 g of 6-aminocaproic acid methyl ester hydrochloride, 6.78 g of 1-naphthalenesulfonyl chloride and 3.03 g of triethylamine were dissolved in 50 mL of dichloromethane and stirred for 12 hours. The reaction mixture was washed with 10% aqueous citric acid and then with saturated aqueous sodium hydrogencarbonate, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and then the residue was purified by silica gel chromatography (eluent: hexane/ethyl acetate=7/3) to obtain 5.50 g of 6(1-naphthalenesulfonyl)aminocaproic acid methyl ester. The resulting 6-(1-naphthalenesulfonyl)aminocaproic acid methyl ester (3.35 g) was dissolved in methanol, and the solution was added with 20 mL of 1 N sodium hydroxide, and stirred for 3 hours. Then, the methanol was evaporated under reduced pressure, and the residue was made acidic with 1 N hydrochloric acid and extracted with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure to obtain 3.02 g of 6-(1-naphthalenesulfonyl)aminocaproic acid.

reactant | 6-(1-naphthalenesulfonyl)aminocaproic acid methyl ester | 3.35 g | COC(CCCCCNS(=O)(=O)C1=CC=CC2=CC=CC=C12)=O | C17H21NO4S
reactant | sodium hydroxide | 1 N, 20 mL | [OH-].[Na+]
solvent | methanol | CO | CH4O
product | 6-(1-naphthalenesulfonyl)aminocaproic acid | 3.02 g | C1(=CC=CC2=CC=CC=C12)S(=O)(=O)NCCCCCC(=O)O | C16H19NO4S
